US07737141B2
Synthesis of (1R,2R)-2-tert-butyldiphenylsilanyloxy-1-(3,4,5-trifluorophenyl)propylamine
Trifluoroacetic acid (0.5 mL) was added to a methylene chloride solution (2 mL) of [(1R,2R)-2-tert-butyldiphenylsilanyloxy-1-(3,4,5-trifluorophenyl)propyl]carbamic acid tert-butyl ester (370 mg). This reaction solution was stirred at room temperature for 11 hr. To this reaction solution, a saturated sodium hydrogencarbonate aqueous solution and ethyl acetate were added. The organic layer was separated, washed with a saturated sodium hydrogencarbonate aqueous solution and then with saturated saline. Then, the organic layer was concentrated under reduced pressure to give 275 mg of the title compound. The physical property values of this compound were as follows:

reactant | Trifluoroacetic acid | 0.5 mL | FC(C(=O)O)(F)F | C2HF3O2
reactant | methylene chloride | 2 mL | C(Cl)Cl | CH2Cl2
reactant | [(1R,2R)-2-tert-butyldiphenylsilanyloxy-1-(3,4,5-trifluorophenyl)propyl]carbamic acid tert-butyl ester | 370 mg | C(C)(C)(C)OC(N[C@@H]([C@@H](C)O[Si](C1=CC=CC=C1)(C1=CC=CC=C1)C(C)(C)C)C1=CC(=C(C(=C1)F)F)F)=O | C30H36F3NO3Si
reactant | sodium hydrogencarbonate | C(O)([O-])=O.[Na+]
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | (1R,2R)-2-tert-butyldiphenylsilanyloxy-1-(3,4,5-trifluorophenyl)propylamine | 275 mg | [Si](C1=CC=CC=C1)(C1=CC=CC=C1)(C(C)(C)C)O[C@@H]([C@@H](C1=CC(=C(C(=C1)F)F)F)N)C | C25H28F3NOSi
